US05679671
7-Phenyl-3,4-dihydro-1(2H)-naphthalenone
While stirring a mixture comprising 15.32 g (52.06 mmol) of 7-trifluoromethanesulfonyloxy-3,4-dihydro-1(2H)-naphthalenone obtained in the Synthesis Example A-1, 12.7 g (104.12 mmol) of phenylboric acid, 10.8 g (78.09 mmol) of potassium carbonate and 450 ml of toluene at room temperature, nitrogen gas was bubbled thereinto for 30 minutes. Next, 1.81 g (1.57 mmol) of tetrakistriphenylphosphine palladium was added thereto. The mixture was slowly heated to thereby maintain the bulk temperature at about 90° C. After stirring at this temperature for 90 minutes, the reaction mixture was cooled and water was added thereto. The insoluble matters were filtered through celite and thoroughly washed with ethyl acetate. The organic phase was collected, washed successively with a saturated aqueous solution of sodium hydrogencarbonate, water, 1N hydrochloric acid, water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was subjected to silica gel column chromatography. After successively eluting with hexane:ethyl acetate in a ratio ranging from 20:1 (v/v) to 12:1 (v/v), 9.53 g of the title compound was obtained as white crystals. Yield 82%.

reactant | 7-trifluoromethanesulfonyloxy-3,4-dihydro-1(2H)-naphthalenone | 52.06 mmol, 15.32 g | FC(S(=O)(=O)OC1=CC=C2CCCC(C2=C1)=O)(F)F | C11H9F3O4S
reactant | phenylboric acid | 104.12 mmol, 12.7 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | potassium carbonate | 78.09 mmol, 10.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 7-Phenyl-3,4-dihydro-1(2H)-naphthalenone | 9.53 g, Yield 82% | C1(=CC=CC=C1)C1=CC=C2CCCC(C2=C1)=O | C16H14O
